2158-09-03 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --started on ancef because of procedure
   --trop leak to 0.18, 0.37, 0.34 MB 14, 11, 9 no new EKG changes
   --started on metoprolol 5mg IV q6h
   --urethral bleed while attempting to place foley, urology came in and
   did it through cystoscopy and stopped bleeding.
   --transfused 1 unit PRBCs overnight for Hct <30
   --CPAP overnight for OSA
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2158-9-3**] 04:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2158-9-2**] 12:00 PM
   Morphine Sulfate - [**2158-9-2**] 02:45 PM
   Pantoprazole (Protonix) - [**2158-9-2**] 08:00 PM
   Metoprolol - [**2158-9-3**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-9-3**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.2
   HR: 98 (70 - 117) bpm
   BP: 110/44(60) {98/44(58) - 155/77(94)} mmHg
   RR: 22 (17 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88 kg (admission): 85.1 kg
   Height: 68 Inch
             Total In:
                                                                  5,032 mL
                                                                    933 mL
   PO:
             TF:
   IVF:
                                                                  2,757 mL
                                                                    933 mL
   Blood products:
                                                                  1,975 mL
   Total out:
                                                                  1,250 mL
                                                                    280 mL
   Urine:
                                                                  1,250 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,782 mL
                                                                    653 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   164 K/uL
   11.2 g/dL
   133 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.5 mEq/L
   33 mg/dL
   116 mEq/L
   150 mEq/L
   34.6 %
   10.5 K/uL
        [image002.jpg]
                             [**2158-8-31**]  06:57 AM
                             [**2158-8-31**]  11:39 AM
                             [**2158-9-2**]  02:45 AM
                             [**2158-9-2**]  06:07 AM
                             [**2158-9-2**]  10:38 AM
                             [**2158-9-2**]  03:34 PM
                             [**2158-9-2**]  03:50 PM
                             [**2158-9-2**]  09:38 PM
                             [**2158-9-3**]  12:41 AM
                             [**2158-9-3**]  05:30 AM
   WBC
   4.5
   8.6
   6.6
   10.5
   Hct
   28.1
   26.8
   26.3
   24.1
   28.5
   29.1
   29.4
   34.6
   Plt
   [**Telephone/Fax (3) 8079**]64
   Cr
   1.3
   1.5
   1.3
   1.4
   1.5
   TropT
   0.04
   0.04
   0.18
   0.37
   Glucose
   93
   147
   127
   114
   133
   Other labs: PT / PTT / INR:21.1/36.3/2.0, CK / CKMB /
   Troponin-T:124/11/0.37, Differential-Neuts:80.6 %, Band:0.0 %,
   Lymph:7.9 %, Mono:9.5 %, Eos:1.1 %, LDH:232 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 VALVE REPLACEMENT, AORTIC MECHANICAL (AVR)
 IMPAIRED SKIN INTEGRITY
 OBSTRUCTIVE SLEEP APNEA (OSA)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   88 y/o M with CAD s/p NSTEMI, Mech AVR and upper GI bleed s/p EGD
   without clear source who was transferred to the ICU after initiation of
   heparin gtt and recurrence of bloody emesis.
   .
   # GI Bleed: Pt with recurrent upper GI bleed after restarting heparin
   gtt.  EGD from [**9-1**] unrevealing for source and heparin stopped at 10pm
   with recurrent bloody emesis 4 hrs later. Currently, pt is HD stable
   with hct 34.6->29.4 after transfusion of 1 unit PRBCs overnight. GI
   aware, concern for possible delafoies
   -- continue IV PPI gtt
   -- transfuse to Hct >30
   -- f/u q6hr HCT
   -- NPO with IVF
   -- GI aware of recurrent bleed, will likely scope tomorrow
   -- maintain active crossmatch (difficult Ab match)
   #Cardiac Ischemia:  Pt w/ troponin leak 0.18->0.37->0.34 , MB 14->11->9
   and no new EKG changes.  Pt had NSTEMI likely due to demand ischemia as
   pt w/  GI bleed.   Pt w/ INR of 2.2 and a recent bleed when heparin gtt
   was started we decided heparin was contraindicated.
   --started metoprolol 5mg q6h
   --will cont to trend CE x1
   --will obtain ECHO
   .
   # AVR: at risk for clot formation/stroke, although daily risk
   relatively small c/w active GI bleed risk.  INR 2.2 which is
   therapeutic.
   -- hold coumadin
   -- trend coags
   .
   # Hypernatremia: Pt with mild hypernatremia likely due to free water
   deficit.  Gave 1L D5W overnight Na 150->147.
   - cont to f/u lytes
   .
   # CKD: baseline
   -- trend Creatinine, monitor UOP
   -- renally dose all meds
   .
   # CHF: Pt with likely diastolic dysfunction and preserved EF of 55% in
   [**6-10**] per report.
   - will monitor resp and volume status
   - f/u pm CXR
   - hold standing lasix and dose prn if CXR shows pulm edema
   .
   # Pressure Ulcers: left gluteal and left lateral malleolus ulcers,
   wound care c/s
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-9-2**] 03:01 AM
   18 Gauge - [**2158-9-2**] 03:01 AM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU level of care
   ------ Protected Section ------
   Physical Examination:
   GENERAL: Pleasant, pale, elderly male
   HEENT: dry MM, neck supple
   CARDIAC: RRR, mechanical S2 heard throughout precordium
   LUNG: CTAB w/ mild bibasilar crackes, no wheezes or ronchi
   ABDOMEN: soft, NT/ND, NABS
   EXT: +2 distal pulses, no edema/cyanosis
   NEURO: oriented to person, time but not hospital, right ptosis
   documented at baseline
   DERM: Grade 1 sacral decubitus and heel ulcers
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 7749**], MD
   on:[**2158-9-3**] 11:35 ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the service provided.  I have reviewed Dr [**Last Name (STitle) 8085**]
s note above and
   agree with his findings and plan of care.  The following are the major
   issues:
   1.       Abnormal mentation: the pt is still acting confused, likely
   from his recent acute medical issues in the setting of dementia. We
   hope to speak with his son to assess the pt
s recent baseline.
   2.       UGI bleed: the pt has been stable without evidence of
   recurrent bleed. Right now pt on for EGD with MAC tomorrow. We
   confirm with GI and/or anethesia
   3.       Anticoagulation: INR remains elevated without coumadin, likely
   due to antibiotics. Will consult with GI to see what INR they need for
   EGD tomorrow
   4.       CAD/NSTEMI: it appears as if pt had small infarct as a result
   of blood loss and tachycardia around GI bleed.  Enzymes decreasing now
   and pt on beta blockers but will be sure GI and anesthesia are aware of
   cardiac isssues
   5.       Hematuria: traumatic foley cath insertion yesterday.  Urology
   assistance and cystocopy greatly appreciated.
   6.       Hypernatremia: improved with D5W but Na still 147.  Will
   continue D5W.
   7.       Code status: pt remains a full code
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 712**], MD
   (30 min spent in the care of this critically ill pt)
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2158-9-3**] 13:30 ------

2158-09-04 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2158-9-3**] 12:23 PM
 EKG - At [**2158-9-4**] 03:00 AM
   --received 1U pRBC for HCT 28.3 (down from 34 in AM) -> HCT 30.8
   --New Afib w/ RVR up to 150s, given 5IV lopressor x2, 250cc bolus
   x2(already on 5q6 lopressor)
   --spoke with family, confirmed full code (orthodox [**Hospital1 **])
   This morning, pt reports feeling ok and
would like to get out of
   here.
 No pain.
   Per family, baseline is AOx3. Pt continues to have waxing and [**Doctor Last Name 226**]
   MS.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2158-9-4**] 05:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-9-3**] 08:00 PM
   Metoprolol - [**2158-9-4**] 05:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-9-4**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 115 (76 - 127) bpm
   BP: 83/46(55) {81/25(50) - 124/70(79)} mmHg
   RR: 21 (15 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 88 kg (admission): 85.1 kg
   Height: 68 Inch
           Total In:
                                                                  2,395 mL
                                                                  1,107 mL
   PO:
                                                                    100 mL
           TF:
   IVF:
                                                                  2,295 mL
                                                                    823 mL
   Blood products:
   284 mL
   Total out:
                                                                  1,025 mL
                                                                    170 mL
   Urine:
                                                                  1,025 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,370 mL
                                                                    937 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   GENERAL: Pleasant, pale, elderly male
   HEENT: dry MM, conjunctival pallor, NCAT, PERRLA/EOMI, neck supple
   CARDIAC: RRR, mechanical S2 heard throughout precordium
   LUNG: Crackles at L base, no wheezes
   ABDOMEN: soft, NT/ND, NABS
   EXT: +2 distal pulses, no edema/cyanosis
   NEURO: oriented to person, season. Sometimes knows he is in hospital.
   Right ptosis documented at baseline
   DERM: Grade 1 sacral decubitus and heel ulcers
   Labs / Radiology
   170 K/uL
   10.5 g/dL
   96 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.4 mEq/L
   24 mg/dL
   114 mEq/L
   145 mEq/L
   30.8 %
   5.3 K/uL
        [image002.jpg]
                             [**2158-9-2**]  10:38 AM
                             [**2158-9-2**]  03:34 PM
                             [**2158-9-2**]  03:50 PM
                             [**2158-9-2**]  09:38 PM
                             [**2158-9-3**]  12:41 AM
                             [**2158-9-3**]  05:30 AM
                             [**2158-9-3**]  06:38 AM
                             [**2158-9-3**]  03:16 PM
                             [**2158-9-3**]  10:33 PM
                             [**2158-9-4**]  03:50 AM
   WBC
   10.5
   7.6
   5.6
   5.3
   Hct
   28.5
   29.1
   29.4
   34.6
   31.4
   28.3
   30.8
   Plt
   164
   174
   151
   170
   Cr
   1.4
   1.5
   1.3
   1.3
   1.3
   TropT
   0.18
   0.37
   0.34
   0.36
   0.41
   0.40
   Glucose
   114
   133
   141
   124
   96
   Other labs: PT / PTT / INR:25.5/40.5/2.5, CK / CKMB /
   Troponin-T:38/4/0.40, Differential-Neuts:80.6 %, Band:0.0 %, Lymph:7.9
   %, Mono:9.5 %, Eos:1.1 %, LDH:232 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.3 mg/dL
   .
   BCx NGTD.  Ucx - negative
   .
   H pylori  positive. MRSA positive.
   .
   CXR: [**2158-9-4**]:  No change from [**2158-9-3**]. Low long volumes, s/p valve
   replacement. Sternotomy wires in place. R paratracheal enlargement due
   to increased venous volumes. Small L pleural effusion, retrocardiac
   atelectasis, min pulm edema. No new opacity suggesting pneumonia.
   .
   [**2158-9-4**] ECHO: Suboptimal image quality. Mild symmetric left ventricular
   hypertrophy with overall low normal left ventricular systolic function.
   Mechanical AVR with normal gradients. Moderate mitral regurgitation.
   Moderate tricuspid regurgitation. LVEF 50-55%
   Assessment and Plan
   .
   88 y/o M with CAD s/p NSTEMI, Mech AVR and upper GI bleed s/p EGD
   without clear source who was transferred to the ICU after initiation of
   heparin gtt and recurrence of bloody emesis.
   .
   # GI Bleed: Pt with recurrent upper GI bleed after restarting heparin
   gtt.  EGD from [**9-1**] unrevealing for source, heparin stopped, with
   recurrent bloody emesis 4 hrs later. Currently, pt is HD stable with
   hct 30.8.
   -- continue PPI 40mg IV BID
   -- transfuse to Hct >30
   -- f/u q6hr HCT
   -- NPO with IVF
   -- GI aware of recurrent bleed, will likely do scope under GA on Friday
   -- maintain active crossmatch (difficult Ab match)
   .
   # Hypotension: Pt with episodes of hypotension most likely due to
   volume depletion. Pt dry on exam. U/O = 30cc/hr.
   -Bolus LR as needed for hypotension.
   -Recheck electrolytes in PM
 pt had hypernatremia earlier in [**Hospital Unit Name 4**]
   course, if hypernatremic, will calculate free water deficit and give
   D5W
   .
   # [**Name (NI) 8108**]
 pt with episode of RVR last night
   -pt currently on maintance dose amniodarone
   -hold lopressor
   .
   #Cardiac Ischemia:  Pt w/ troponin leak
   0.18->0.37->0.34->0.36->0.41->0.40 , MB 14->11->9 -> 6 ->5->4 and no
   new EKG changes.  Pt had NSTEMI likely due to demand ischemia as pt w/
   GI bleed.   Pt w/ INR of 2.5 and a recent bleed when heparin gtt was
   started so heparin on hold.   ECHO with results above.
   --hold metoprolol 5mg q6h given amniodarone and hypotension
   --will cont to trend CE
   .
   # AVR: Pt at risk for clot formation/stroke, although daily risk
   relatively small c/w active GI bleed risk.  INR 2.5 which is
   therapeutic.
   -- hold coumadin
   -- trend coags
   .
   # CKD: baseline
   -- trend Creatinine, monitor UOP
   -- renally dose all meds
   .
   # CHF: Pt with likely diastolic dysfunction and low-normal EF of
   50-55%  per [**2158-9-4**] ECHO.
   - will monitor resp and volume status as above
   - hold standing lasix and dose prn if CXR shows pulm edema although pt
   currently hypovolemic.
   .
   # Pressure Ulcers: left gluteal and left lateral malleolus ulcers,
   wound care c/s
   ICU Care
   Nutrition: clears as tolerated
   Glycemic Control:
   Lines:
   20 Gauge x3 - [**2158-9-2**] 03:01 AM
   18 Gauge - [**2158-9-2**] 03:01 AM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  with patient and son
   [**Name (NI) 156**] status: Full code (ortho [**Hospital1 1657**])
   Disposition: ICU level of care

2158-09-04 10:53:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia, CRF, coagulopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Transfused last night with good response in Hct. Had episode of AFib
   requiring lopressor. Blood pressure was stable throughout except drops
   to 90's when IV lopressor given. Amiodarone was started this AM; had
   brief drop in BP which is now responding to fluids.
   Mental status continues to wax and wane.
   24 Hour Events:
 EKG - At [**2158-9-3**] 12:23 PM
 EKG - At [**2158-9-4**] 03:00 AM
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2158-9-4**] 05:00 AM
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Metoprolol - [**2158-9-4**] 05:58 AM
   Pantoprazole (Protonix) - [**2158-9-4**] 07:58 AM
   Other medications:
   Metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-9-4**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 83 (80 - 127) bpm
   BP: 95/54(65) {80/25(50) - 124/71(79)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 88 kg (admission): 85.1 kg
   Height: 68 Inch
           Total In:
                                                                  2,395 mL
                                                                  1,964 mL
   PO:
                                                                    100 mL
           TF:
   IVF:
                                                                  2,295 mL
                                                                  1,680 mL
   Blood products:
   284 mL
   Total out:
                                                                  1,025 mL
                                                                    250 mL
   Urine:
                                                                  1,025 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,370 mL
                                                                  1,714 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Dry oral mucosa
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur throughout the precordium. Mechanical
   valve sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : left base, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: Left
   Lower quadrant, Obese
   Extremities: Right: Trace edema, Left: Trace edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Diffuse small ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): date, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   170 K/uL
   96 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.4 mEq/L
   24 mg/dL
   114 mEq/L
   145 mEq/L
   30.8 %
   5.3 K/uL
        [image002.jpg]
                             [**2158-9-2**]  10:38 AM
                             [**2158-9-2**]  03:34 PM
                             [**2158-9-2**]  03:50 PM
                             [**2158-9-2**]  09:38 PM
                             [**2158-9-3**]  12:41 AM
                             [**2158-9-3**]  05:30 AM
                             [**2158-9-3**]  06:38 AM
                             [**2158-9-3**]  03:16 PM
                             [**2158-9-3**]  10:33 PM
                             [**2158-9-4**]  03:50 AM
   WBC
   10.5
   7.6
   5.6
   5.3
   Hct
   28.5
   29.1
   29.4
   34.6
   31.4
   28.3
   30.8
   Plt
   164
   174
   151
   170
   Cr
   1.4
   1.5
   1.3
   1.3
   1.3
   TropT
   0.18
   0.37
   0.34
   0.36
   0.41
   0.40
   Glucose
   114
   133
   141
   124
   96
   Other labs: PT / PTT / INR:25.5/40.5/2.5, CK / CKMB /
   Troponin-T:38/4/0.40, Differential-Neuts:80.6 %, Band:0.0 %, Lymph:7.9
   %, Mono:9.5 %, Eos:1.1 %, LDH:232 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.3 mg/dL
   Imaging: CXR: large heart. Retrocardiac area now well seen. Possible
   density superior mediastinum on the right.
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 VALVE REPLACEMENT, AORTIC MECHANICAL (AVR)
 IMPAIRED SKIN INTEGRITY
 OBSTRUCTIVE SLEEP APNEA (OSA)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ANEMIA
   ATRIAL FIBRILLATION
   COAGULOPATHY
   Patient's hct appears stable. Continue to monitor today; no need for
   transfusion now. GI service does not want to do Endoscopy until cardiac
   status stabilizes. INR remains at 2.5; not actively trying to correct
   that now with hx of AVR.
   Afib with tachycardia. With lopressor, HR in mid 80's now. Amiodarone
   has been started with mild decrease in blood pressure.
   Oxygenation good on nasal supplementation. No evidence of CHF on exam.
   Patient probably mildly intravascularly volume depleted now.
   Hypernatremia is improved. Likely still needs some free water today.
   ICU Care
   Nutrition: Clear liqs.
   Glycemic Control:
   Lines:
   18 Gauge - [**2158-9-2**] 03:01 AM
   20 Gauge - [**2158-9-4**] 04:20 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2158-09-05 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2158-9-4**] 08:17 AM
 TRANSTHORACIC ECHO - At [**2158-9-4**] 11:26 AM
   -Per urology, pt has stricture, leave foley in place at least 2 weeks.
   -EGD/[**Last Name (un) **] planned for today, prepped o/n; if neg, plan for capsule
   endoscopy
   -Ca improved after dose of calcium gluconate
   -no episodes of hypotension o/n
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2158-9-4**] 05:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-9-4**] 07:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-9-5**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 84 (78 - 119) bpm
   BP: 143/68(85) {80/39(50) - 143/101(105)} mmHg
   RR: 25 (15 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88 kg (admission): 85.1 kg
   Height: 68 Inch
             Total In:
                                                                  5,192 mL
                                                                     89 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  4,308 mL
                                                                     89 mL
   Blood products:
                                                                    284 mL
   Total out:
                                                                    980 mL
                                                                    205 mL
   Urine:
                                                                    980 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,212 mL
                                                                   -116 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   GENERAL: Pleasant, pale, elderly male
   HEENT: dry MM, conjunctival pallor, NCAT, PERRLA/EOMI, neck supple
   CARDIAC: RRR, mechanical S2 heard throughout precordium
   LUNG: Crackles at L base, no wheezes
   ABDOMEN: soft, NT/ND, NABS
   EXT: +2 distal pulses, no edema/cyanosis
   NEURO: oriented to person, season. Sometimes knows he is in hospital.
   Right ptosis documented at baseline
   DERM: Grade 1 sacral decubitus and heel ulcers
   Labs / Radiology
   192 K/uL
   11.3 g/dL
   91 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.8 mEq/L
   17 mg/dL
   110 mEq/L
   144 mEq/L
   34.5 %
   5.4 K/uL
        [image002.jpg]
                             [**2158-9-2**]  09:38 PM
                             [**2158-9-3**]  12:41 AM
                             [**2158-9-3**]  05:30 AM
                             [**2158-9-3**]  06:38 AM
                             [**2158-9-3**]  03:16 PM
                             [**2158-9-3**]  10:33 PM
                             [**2158-9-4**]  03:50 AM
                             [**2158-9-4**]  02:34 PM
                             [**2158-9-5**]  12:19 AM
                             [**2158-9-5**]  05:16 AM
   WBC
   10.5
   7.6
   5.6
   5.3
   6.6
   5.4
   Hct
   29.4
   34.6
   31.4
   28.3
   30.8
   32.9
   34.2
   34.5
   Plt
   164
   174
   151
   170
   163
   192
   Cr
   1.5
   1.3
   1.3
   1.3
   1.2
   1.2
   TropT
   0.37
   0.34
   0.36
   0.41
   0.40
   0.40
   0.51
   Glucose
   133
   141
   124
   96
   93
   91
   Other labs: PT / PTT / INR:22.1/36.8/2.1, CK / CKMB /
   Troponin-T:26/4/0.51, Differential-Neuts:80.6 %, Band:0.0 %, Lymph:7.9
   %, Mono:9.5 %, Eos:1.1 %, LDH:232 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.7 mg/dL
   .
   [**2158-9-4**] ECHO: Suboptimal image quality. Mild symmetric left ventricular
   hypertrophy with overall low normal left ventricular systolic function.
   Mechanical AVR with normal gradients. Moderate mitral regurgitation.
   Moderate tricuspid regurgitation. LVEF 50-55%
   Assessment and Plan
   88 y/o M with CAD s/p NSTEMI, Mech AVR and upper GI bleed s/p EGD
   without clear source who was transferred to the ICU after initiation of
   heparin gtt and recurrence of bloody emesis.
   .
   # GI Bleed: Pt with recurrent upper GI bleed after restarting heparin
   gtt.  EGD ([**2158-9-1**]) unrevealing for source, heparin stopped, with
   recurrent bloody emesis 4 hrs later. Currently, pt is HD stable with
   hct 34.5.
   -- GI to do EGD/Colonoscopy today
   -- continue PPI 40mg IV BID
   -- transfuse to Hct >30
   -- f/u q6hr HCT
   -- NPO for procedure with IVF
   -- GI aware of recurrent bleed, will likely do scope under GA on Friday
   -- maintain active crossmatch (difficult Ab match)
   .
   # Hypotension: Pt with episodes of hypotension most likely due to
   volume depletion. Pt dry on exam. U/O = 30cc/hr.
   -Bolus LR as needed for hypotension.
   -Recheck electrolytes in PM
 pt had hypernatremia earlier in [**Hospital Unit Name 4**]
   course; if hypernatremic, will calculate free water deficit and give
   D5W
   .
   # [**Name (NI) 8108**]
 pt with no episodes of RVR last night
   -pt currently on amniodarone drip
   -hold lopressor
   .
   #Cardiac Ischemia:  Pt w/ troponin leak, increased to 0.51 today , MB
   14->11->9 -> 6 ->5->4->4. and no new EKG changes.  Pt had NSTEMI likely
   due to demand ischemia as pt w/  GI bleed.   Pt w/ INR of 2.1 today and
   a recent bleed when heparin gtt was started so heparin on hold.   ECHO
   with results above.
   --hold metoprolol 5mg q6h given amniodarone drip and prior episodes of
   hypotension
   --will cont to trend CE
   .
   # AVR: Pt at risk for clot formation/stroke, although daily risk
   relatively small c/w active GI bleed risk.  INR 2.1 which is still
   therapeutic.
   -- hold coumadin pending findings on scope.
   -- trend coags
   .
   # CKD: baseline
   -- trend Creatinine, monitor UOP
   -- renally dose all meds
   .
   # CHF: Pt with likely diastolic dysfunction and low-normal EF of
   50-55%  per [**2158-9-4**] ECHO.
   - will monitor resp and volume status as above
   - hold standing lasix
   .
   # Pressure Ulcers: left gluteal and left lateral malleolus ulcers,
   wound care c/s
   ICU Care
   Nutrition: NPO for procedure today; resume clears- Kosher low sodium
   Glycemic Control:
   Lines:
   20 Gauge x3 - [**2158-9-2**] 03:01 AM
   18 Gauge - [**2158-9-2**] 03:01 AM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  with patient and son
   [**Name (NI) 156**] status: Full code (ortho [**Hospital1 1657**])
   Disposition: ICU level of care

2158-09-05 11:48:00 Physician Attending Progress Note
Chief Complaint: GI bleed, NSTEMI, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No evidence of further bleeding. Hct trended up yesterday.
   Hemodynamically stable.
   Echo with LVEF 50%. Moderate mitral and tricuspid regurg.
   Amiodarone load completed.
   24 Hour Events:
 EKG - At [**2158-9-4**] 08:17 AM
 TRANSTHORACIC ECHO - At [**2158-9-4**] 11:26 AM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2158-9-4**] 05:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-9-5**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-9-5**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 76 (76 - 86) bpm
   BP: 135/57(77) {105/48(64) - 143/101(105)} mmHg
   RR: 17 (15 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88 kg (admission): 85.1 kg
   Height: 68 Inch
             Total In:
                                                                  5,192 mL
                                                                    431 mL
   PO:
                                                                    600 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  4,308 mL
                                                                    131 mL
   Blood products:
                                                                    284 mL
   Total out:
                                                                    980 mL
                                                                    385 mL
   Urine:
                                                                    980 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,212 mL
                                                                     46 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Mechanical valve sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   192 K/uL
   91 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.8 mEq/L
   17 mg/dL
   110 mEq/L
   144 mEq/L
   34.5 %
   5.4 K/uL
        [image002.jpg]
                             [**2158-9-2**]  09:38 PM
                             [**2158-9-3**]  12:41 AM
                             [**2158-9-3**]  05:30 AM
                             [**2158-9-3**]  06:38 AM
                             [**2158-9-3**]  03:16 PM
                             [**2158-9-3**]  10:33 PM
                             [**2158-9-4**]  03:50 AM
                             [**2158-9-4**]  02:34 PM
                             [**2158-9-5**]  12:19 AM
                             [**2158-9-5**]  05:16 AM
   WBC
   10.5
   7.6
   5.6
   5.3
   6.6
   5.4
   Hct
   29.4
   34.6
   31.4
   28.3
   30.8
   32.9
   34.2
   34.5
   Plt
   164
   174
   151
   170
   163
   192
   Cr
   1.5
   1.3
   1.3
   1.3
   1.2
   1.2
   TropT
   0.37
   0.34
   0.36
   0.41
   0.40
   0.40
   0.51
   Glucose
   133
   141
   124
   96
   93
   91
   Other labs: PT / PTT / INR:22.1/36.8/2.1, CK / CKMB /
   Troponin-T:26/4/0.51, Differential-Neuts:80.6 %, Band:0.0 %, Lymph:7.9
   %, Mono:9.5 %, Eos:1.1 %, LDH:232 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 VALVE REPLACEMENT, AORTIC MECHANICAL (AVR)
 IMPAIRED SKIN INTEGRITY
 OBSTRUCTIVE SLEEP APNEA (OSA)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ======================================
   Bleeding appears to have stopped. Hct stable. Colonoscopy this
   afternoon. BP has been stable.
   No evidence of further ischemia by history, although enzymes up
   slightly. Repeat ECG today; some concern for silent ischemia. Echo
   without much change from previously.
   Creat down from [**9-2**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-9-4**] 04:20 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: VAP bundle not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2158-09-06 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2158-9-5**] 02:28 PM
   - EGD uneventful
   - restart heparin today based on morning INR
   - call out in the AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2158-9-5**] 04:37 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-9-5**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-9-6**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.3
C (95.6
   HR: 76 (72 - 90) bpm
   BP: 138/59(78) {106/55(67) - 158/94(100)} mmHg
   RR: 22 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88 kg (admission): 85.1 kg
   Height: 68 Inch
                  Total In:
                                                                    611 mL
                  PO:
                                                                    430 mL
                  TF:
   IVF:
                                                                    181 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    230 mL
   Urine:
                                                                  1,000 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -389 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   GENERAL: Pleasant, pale, elderly male
   HEENT: conjunctival pallor, NCAT, PERRLA/EOMI, neck supple
   CARDIAC: RRR, mechanical S2 heard throughout precordium
   LUNG: Crackles at L base, no wheezes , R lung CTA
   ABDOMEN: soft, NT/ND, NABS
   EXT: +2 distal pulses, no edema/cyanosis
   NEURO: oriented to person, hospital, month. Right ptosis documented at
   baseline
   DERM: Grade 1 sacral decubitus and heel ulcers
   Labs / Radiology
   177 K/uL
   11.3 g/dL
   75 mg/dL
   1.1 mg/dL
   20 mEq/L
   3.5 mEq/L
   14 mg/dL
   112 mEq/L
   144 mEq/L
   34.7 %
   4.7 K/uL
        [image002.jpg]
                             [**2158-9-3**]  06:38 AM
                             [**2158-9-3**]  03:16 PM
                             [**2158-9-3**]  10:33 PM
                             [**2158-9-4**]  03:50 AM
                             [**2158-9-4**]  02:34 PM
                             [**2158-9-5**]  12:19 AM
                             [**2158-9-5**]  05:16 AM
                             [**2158-9-5**]  05:42 PM
                             [**2158-9-6**]  04:27 AM
                             [**2158-9-6**]  04:30 AM
   WBC
   7.6
   5.6
   5.3
   6.6
   5.4
   4.7
   Hct
   31.4
   28.3
   30.8
   32.9
   34.2
   34.5
   32.8
   34.7
   Plt
   174
   151
   170
   163
   192
   177
   Cr
   1.3
   1.3
   1.3
   1.2
   1.2
   1.1
   TropT
   0.34
   0.36
   0.41
   0.40
   0.40
   0.51
   0.54
   Glucose
   141
   124
   96
   93
   91
   75
   Other labs: PT / PTT / INR:22.1/36.8/2.1, CK / CKMB /
   Troponin-T:27/4/0.54, Differential-Neuts:80.6 %, Band:0.0 %, Lymph:7.9
   %, Mono:9.5 %, Eos:1.1 %, LDH:232 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.7 mg/dL
   BCx
 pending
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 VALVE REPLACEMENT, AORTIC MECHANICAL (AVR)
 IMPAIRED SKIN INTEGRITY
 OBSTRUCTIVE SLEEP APNEA (OSA)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   88 y/o M with CAD s/p NSTEMI, Mech AVR and upper GI bleed s/p EGD
   without clear source who was transferred to the ICU after initiation of
   heparin gtt and recurrence of bloody emesis.
   .
   # GI Bleed: Pt with recurrent upper GI bleed after restarting heparin
   gtt.  EGD ([**2158-9-5**]) negative for bleeds.  Currently, pt is HD stable
   with hct 34.7.  Colonoscopy not urgent, and patient is refusing bowel
   prep.  Will keep on clear liquids.
   -- consider MRI endography to assess small bowel
   -- continue PPI 40mg IV BID
   -- transfuse to Hct >30
   -- f/u q12hr hct
   -- maintain active crossmatch (difficult Ab match)
   .
   # Hypotension: resolved
   - monitor vitals
   .
   # A-fib
 no episodes of RVR last night
   -pt currently on amiodarone 200mg [**Hospital1 **]
   -hold lopressor
   .
   #Cardiac Ischemia:  Pt w/ troponin leak, increased to 0.51 today , MB
   now stable. Concern for silent ischemia. Pt had NSTEMI likely due to
   demand ischemia as pt w/  GI bleed.   Pt w/ INR of 2.1 today while
   heparin on hold.   ECHO with results above.
   --hold metoprolol 5mg q6h given amniodarone drip and prior episodes of
   hypotension
   .
   # AVR: Pt at risk for clot formation/stroke, although daily risk
   relatively small c/w active GI bleed risk.  INR 2.1 which is still
   therapeutic.
   -- hold coumadin pending findings on scope.
   -- trend coags
   -- restart heparin drip today
   .
   # CKD: baseline
   -- trend Creatinine, monitor UOP
   -- renally dose all meds
   .
   # CHF: Pt with likely diastolic dysfunction and low-normal EF of 50-55%
   per [**2158-9-4**] ECHO.
   - will monitor resp and volume status as above
   - hold standing lasix
   .
   # Pressure Ulcers: left gluteal and left lateral malleolus ulcers,
   wound care c/s
   ICU Care
   Nutrition: clears- Kosher low sodium
   Glycemic Control:
   Lines:
   20 Gauge x3 - [**2158-9-2**] 03:01 AM
   18 Gauge - [**2158-9-2**] 03:01 AM
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  with patient and son
   [**Name (NI) 156**] status: Full code (ortho [**Hospital1 1657**])
   Disposition: if stable after scope, dispo to floor

2158-09-06 11:09:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia, coagulopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   EGD negative. Hct stable. Hemodynamics stable.
   24 Hour Events:
 EKG - At [**2158-9-5**] 02:28 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2158-9-5**] 04:37 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-9-6**] 07:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-9-6**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 71 (71 - 90) bpm
   BP: 132/45(69) {106/45(65) - 158/94(100)} mmHg
   RR: 19 (16 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88 kg (admission): 85.1 kg
   Height: 68 Inch
             Total In:
                                                                    611 mL
                                                                    130 mL
   PO:
                                                                    430 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    181 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    310 mL
   Urine:
                                                                  1,000 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -389 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, No(t) NG tube, No(t)
   OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), III/VI systolic murmur holosystolic radiating to the
   axilla.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent edema, Left: Absent edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   177 K/uL
   75 mg/dL
   1.1 mg/dL
   20 mEq/L
   3.5 mEq/L
   14 mg/dL
   112 mEq/L
   144 mEq/L
   34.7 %
   4.7 K/uL
        [image002.jpg]
                             [**2158-9-3**]  06:38 AM
                             [**2158-9-3**]  03:16 PM
                             [**2158-9-3**]  10:33 PM
                             [**2158-9-4**]  03:50 AM
                             [**2158-9-4**]  02:34 PM
                             [**2158-9-5**]  12:19 AM
                             [**2158-9-5**]  05:16 AM
                             [**2158-9-5**]  05:42 PM
                             [**2158-9-6**]  04:27 AM
                             [**2158-9-6**]  04:30 AM
   WBC
   7.6
   5.6
   5.3
   6.6
   5.4
   4.7
   Hct
   31.4
   28.3
   30.8
   32.9
   34.2
   34.5
   32.8
   34.7
   Plt
   174
   151
   170
   163
   192
   177
   Cr
   1.3
   1.3
   1.3
   1.2
   1.2
   1.1
   TropT
   0.34
   0.36
   0.41
   0.40
   0.40
   0.51
   0.54
   Glucose
   141
   124
   96
   93
   91
   75
   Other labs: PT / PTT / INR:23.0/37.7/2.2, CK / CKMB /
   Troponin-T:27/4/0.54, Differential-Neuts:80.6 %, Band:0.0 %, Lymph:7.9
   %, Mono:9.5 %, Eos:1.1 %, LDH:232 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 VALVE REPLACEMENT, AORTIC MECHANICAL (AVR)
 IMPAIRED SKIN INTEGRITY
 OBSTRUCTIVE SLEEP APNEA (OSA)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ANEMIA
   COAGULOPATHY
   ACIDOSIS
   ==================
   Patient doing well with stable Hct. No bleeding site noted.
   Hemodynamically stable. No evidence of CHF. Begin ambulation.
   Patient has mild hyperchloremic acidosis. Has had frequent stool with
   bowel prep.  Does not appear volume depleted; has not recieved
   significant IV fluids recently.
   ICU Care
   Nutrition: Oral
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-9-4**] 04:20 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes